US05559116
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (3.0 g, 3.6 mmol), K2CO3 (2.45 g, 17.7 mmol), 2-methanesulfonyloxymethyl-1,4-benzodioxan (3.35 g, 13.7 mmole) in acetonitrile (100 ml) was heated at reflux for 12 hours. At the end of the reaction, the insolubles were filtered and rinsed with dichloromethane. The organic solution was concentrated. The crude oil was purified by flash chromatography on a silica gel column. The fractions containing the pure product were pooled and concentrated to a light yellow oil (3.94 g, 74%). Crystallization from ethanol and petroleum ether gave 2-[4-(6-fluoro-1,2-benzisoxazolyl)-3-yl)-1-piperidinyl]methyl-1,4-benzodioxan as off-white crystals, 2.22 g, m.p.=86°-87° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 3.6 mmol, 3.0 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 17.7 mmol, 2.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methanesulfonyloxymethyl-1,4-benzodioxan | 13.7 mmole, 3.35 g | CS(=O)(=O)OCC1COC2=C(O1)C=CC=C2 | C10H12O5S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl-1,4-benzodioxan | CC1COC2=C(O1)C=CC=C2 | C9H10O2
